US08076345B2
6-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
A mixture of 6-benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one (5.0 g, 0.02 mol), phosphoryl chloride (3.30 mL, 0.035 mol) and acetonitrile (80 mL) and DMF (catalytic amount) was heated at 70° C. for 1 hour. The mixture was concentrated in vacuo and the remaining black residue was taken up in dichloromethane (250 mL) and poured over ice. The mixture was carefully neutralized with the addition of solid sodium bicarbonate. The organic layer was separated and dried over sodium sulfate and concentrated in vacuo. The mixture was purified by silica gel column with EtOAc/hexane (0-100%) to yield the title compound as a yellow oil (3 g, 57.8%). LC-MS: 260 [M+1]+; 1H NMR (400 MHz, DMSO-d6): δ 8.80 (s, 1H), 7.40-7.24 (m, 5H), 3.76 (s, 2H), 3.57 (s, 2H), 2.92 (t, 2H), 2.80 (t, 2H).

reactant | 6-benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one | 0.02 mol, 5.0 g | C(C1=CC=CC=C1)N1CC2=C(N=CNC2=O)CC1 | C14H15N3O
reactant | phosphoryl chloride | 0.035 mol, 3.30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 3 g, 57.8% | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
